US04421758
389 mg of α-bromomethyl-2,4-dichlorobenzyl alcohol and 300 mg of 2-(4-fluorophenoxymethyl)-3,4-dihydro-2H-pyran, prepared as described above, were dissolved in 10 ml of diethyl ether. A catalytic amount (2 drops) of phosphorus oxytrichloride was added to the resulting solution and the mixture allowed to react at room temperature for 4 days, after which it was treated and the product purified essentially as described in Example 34(a), to give 214 mg of the isomer of lesser polarity of trans-6-(4-fluorophenoxymethyl)-2-[2-bromo-1-(2,4-dichlorophenyl)ethoxy]tetrahydropyran, 211 mg of the isomer of greater polarity and 143 mg of a mixture of these isomers.

reactant | α-bromomethyl-2,4-dichlorobenzyl alcohol | 389 mg | BrCC(C1=C(C=C(C=C1)Cl)Cl)O | C8H7BrCl2O
reactant | 2-(4-fluorophenoxymethyl)-3,4-dihydro-2H-pyran | 300 mg | FC1=CC=C(OCC2OC=CCC2)C=C1 | C12H13FO2
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
catalyst | phosphorus oxytrichloride | 2 drops | O=P(Cl)(Cl)Cl | Cl3OP
product | trans-6-(4-fluorophenoxymethyl)-2-[2-bromo-1-(2,4-dichlorophenyl)ethoxy]tetrahydropyran | FC1=CC=C(OC[C@H]2CCC[C@@H](O2)OC(CBr)C2=C(C=C(C=C2)Cl)Cl)C=C1 | C20H20BrCl2FO3
